US06989392B2
8-(3-((2-methylquinolin-8-yl)oxy)propoxy)quinolin-2-amine
A 20 mL scintillation vial with a septum cap was charged with PS-PPh3 resin (Aldrich Chemical Co., Inc, 60 mg, 2.4 equiv), 8-hydroxyquinaldine (1.5 equiv) and DBAD (28 mg, 1.6 equiv) and purged by passing a stream of N2 for 45 seconds. Anhydr. THF (3 mL) was added and the contents of the vial were shaken for 5 min. Then, a solution of 3-((2-aminoquinolin-8-yl)oxy)propan-1-ol (16.7 mg/mL; 1.0 mL, 0.077 mmol) in anhydr. THF (1 mL) was added and the resulting suspension was agitated at room temperature for 8 h. Then, PS-PPh3 resin (Aldrich Chemical Co., Inc, 60 mg, 2.4 equiv) and DBAD (28 mg, 1.6 equiv) were added and the mixture was agitated at room temperature for additional 6 h. The suspension was filtered, and the resin washed with THF (3×3.0 mL). The filtrate and washings were combined and evaporated in vacuo. The residue was then treated with 6.0 mL of 4 M HCl in dioxane at room temperature for 6 h. The resulting solution was evaporated in vacuo. The residue was dissolved in 1.5 mL of a 1:1 mixture of DMSO/MeOH and purified by preparative reverse-phase HPLC. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.60 (d, 1H), 7.90 (d, 1H), 7.69 (t, 1H), 7.65 (d, 1H), 7.53 (d, 1H), 7.46 (d, 1H), 7.30 (t, 1H), 7.24 (m, 1H), 7.16 (m, 1H), 6.99 (d, 1H), 4.65 (br t, 2H), 4.48 (br t, 2H), 3.10 (s, 3H), 2.64 (m, 2H); MS (DCI/NH3) m/z 360 [M+H]+.

reactant | PPh3 | 60 mg, 2.4 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 8-hydroxyquinaldine | 1.5 equiv | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | DBAD | 28 mg, 1.6 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | 3-((2-aminoquinolin-8-yl)oxy)propan-1-ol | 0.077 mmol, 1.0 mL | NC1=NC2=C(C=CC=C2C=C1)OCCCO | C12H14N2O2
reactant | PPh3 | 60 mg, 2.4 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DBAD | 28 mg, 1.6 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 8-(3-((2-methylquinolin-8-yl)oxy)propoxy)quinolin-2-amine | CC1=NC2=C(C=CC=C2C=C1)OCCCOC=1C=CC=C2C=CC(=NC12)N | C22H21N3O2
